US07544695B2
6-(2-Acetyl-2,7-diazaspiro[4.5]dec-7-yl)-N-[2-amino-5-(2-thienyl)phenyl]-nicotinamide
A mixture of tert-butyl 2,7-diazaspiro[4.5]decane-7-carboxylate (200 mg, 0.833 mmol), NEt3 (0.200 mL, 1.44 mmol) and Ac2O (0.100 mL, 1.06 mmol) in 1 mL of DMF was stirred for 5 h. The reaction mixture was partitioned between EtOAc and saturated NaHCO3, the organic layer was dried (Na2SO4), filtered and concentrated. The mixture was treated with 1:1 TFA/CH2Cl2, stirred for 1 h and concentrated. The oily residue was azeotroped with methanol and placed under high vacuum overnight. The resulting thick residue was then dissolved in 2 mL of DMSO containing tert-butyl [2-{[(6-chloropyridin-3-yl)carbonyl]amino}-4-(2-thienyl)phenyl]carbamate (100 mg, 0.233 mmol), treated with NEt3 (0.50 mL) and stirred at 90° C. for 12 h. The reaction mixture was partitioned between EtOAc and saturated NaHCO3, the organic layer was dried (Na2SO4), filtered and concentrated. Finally, the residue was dissolved in 1:1 TFA/CH2Cl2, stirred for 1 h and concentrated. Reverse-phase chromatography (10-100% MeCN/water with 0.05% TFA) followed by TFA removal by EtOAc/saturated extraction and drying (Na2SO4) gave the title compound: 1H NMR (600 MHz, CD3OD): δ 8.69 and 8.71 (2s, 1H), 8.05 and 8.07 (2d, J=9.1 Hz, 1H), 7.47 (s, 1H), 7.35 (d, J=8.2 Hz, 1H), 7.23 (d, J=5.0 Hz, 1H), 7.20 (d, J=3.5 Hz, 1H), 7.01 (dd, J=5.0, 3.5 Hz, 1H), 6.91 (d, J=8.2 Hz, 1H), 6.82 (dd, J=9.1, 6.2 Hz, 1H), 3.75 (m, 2H), 3.65 (m, 1H), 3.52 (m, 3H), 3.03 and 3.19 (2d, J=12.3 Hz, 1H), 2.00 and 2.04 (2s, 3H), 1.6-1.9 (m, 6H); MS (ESI+): cal'd [M+H]+ 476.2, obs'd 476.2.

reactant | tert-butyl 2,7-diazaspiro[4.5]decane-7-carboxylate | 0.833 mmol, 200 mg | C1NCCC12CN(CCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | NEt3 | 1.44 mmol, 0.200 mL | CCN(CC)CC | C6H15N
reactant | Ac2O | 1.06 mmol, 0.100 mL | CC(=O)OC(=O)C | C4H6O3
reactant | tert-butyl [2-{[(6-chloropyridin-3-yl)carbonyl]amino}-4-(2-thienyl)phenyl]carbamate | 0.233 mmol, 100 mg | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C21H20ClN3O3S
reactant | NEt3 | 0.50 mL | CCN(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-(2-Acetyl-2,7-diazaspiro[4.5]dec-7-yl)-N-[2-amino-5-(2-thienyl)phenyl]-nicotinamide | C(C)(=O)N1CC2(CC1)CN(CCC2)C2=NC=C(C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)N)C=C2 | C26H29N5O2S
